US05536725
This compound is prepared in a manner analogous to that of Example 1, using 4.7 grams (0.013 mole) of phenylmethyl [(cyclohexanon-4-yl)(3-trifluoromethylphenyl)]methyl ether and 1.2 grams (0.014 mole) of cyanoguanidine in 2-(2-ethoxyethoxy)ethanol, yielding 2,4-diamino-6-[(phenylmethoxy)(3-trifluoromethylphenyl)methyl]-5,6,7,8-tetrahydroquinazoline.

reactant | phenylmethyl [(cyclohexanon-4-yl)(3-trifluoromethylphenyl)]methyl ether | 0.013 mole, 4.7 grams | C1(CCC(CC1)C1=C(C=CC=C1C(F)(F)F)COCC1=CC=CC=C1)=O | C21H21F3O2
reactant | cyanoguanidine | 0.014 mole, 1.2 grams | C(#N)NC(=N)N | C2H4N4
solvent | 2-(2-ethoxyethoxy)ethanol | C(C)OCCOCCO | C6H14O3
product | 2,4-diamino-6-[(phenylmethoxy)(3-trifluoromethylphenyl)methyl]-5,6,7,8-tetrahydroquinazoline | NC1=NC=2CCC(CC2C(=N1)N)C(C1=CC(=CC=C1)C(F)(F)F)OCC1=CC=CC=C1 | C23H23F3N4O
